US07122546B2
NH2NH2—H2O (6.94 ml, 143 mmol) is added to a solution of 3-acetyl-hexanoic acid (18.8 g, 119 mmol) in EtOH (150 ml), and the mixture is refluxed (oil bath 85° C.) for 4 hours. The solvent is removed in vacuo and water (100 ml) and EtOAc (100 ml) are added to the residue. The layers are separated and the aqueous layer is extracted with EtOAc (3×100ml). The combined extracts are washed with brine (150 ml), dried (Na2SO4) and evaporated. 6-methyl-5propyl-4,5-dihydropyridazin-3-one is obtained as a light yellow oil, and is used in the next step.

reactant | NH2NH2—H2O | 143 mmol, 6.94 ml | NN.O
reactant | 3-acetyl-hexanoic acid | 119 mmol, 18.8 g | C(C)(=O)C(CC(=O)O)CCC | C8H14O3
solvent | EtOH | 150 ml | CCO | C2H6O
product | 6-methyl-5propyl-4,5-dihydropyridazin-3-one | CC=1C(CC(NN1)=O)CCC | C8H14N2O
